US04514045
Trifluoroacetic acid (150 cc) was added to a flask containing 14.0 gm hexamethylenetetramine (HMTA). (+)2-methylbutylbenzene (14.8 gm) was then added and the mixture was refluxed for 21 hours. The deep orange mixture was distilled to remove excess trifluoroacetic acid. When about one third the volume remained, the mixture was poured into 600 ml ice water and stirred for 15 minutes. Sodium carbonate was added with stirring until the mixture was basic and the product was extracted with ether. The ether extract was washed with water and dried over sodium sulfate. The ether was removed leaving 18 gm crude (+)-4(-2-methylbutyl)benzaldehyde. This was vacuum distilled (78° C. at 0.07 mm Hg). The structure of the product was confirmed by NMR. The yield of the product was 78%.

reactant | hexamethylenetetramine | 14.0 gm | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | (+)2-methylbutylbenzene | 14.8 gm | CC(CC1=CC=CC=C1)CC | C11H16
reactant | Trifluoroacetic acid | 150 cc | FC(C(=O)O)(F)F | C2HF3O2
product | (+)-4(-2-methylbutyl)benzaldehyde | 18 gm | CC(CC1=CC=C(C=O)C=C1)CC | C12H16O
